US09328092B2
Step (iv): Preparation of 3-[4-(Piperidin-4-yloxy)phenyl]-1-(morpholin-4-yl)prop-2-ene-1-one
A solution of 3-[4-(1-t-Butyloxycarbonyl piperidin-4-yloxy)phenyl]-1-(morpholin-4-yl)prop-2-ene-1-one (29.8 grams, 0.071 moles) in dichloromethane (400 mL) was treated with trifluoroacetic acid (55.6 mL, 0.726 moles) at room temperature. The reaction mass was stirred for 6 hours at room temperature. The progress of the reaction was monitored by thin layer chromatography. After completion of the reaction, the reaction mass was poured on to chilled water (500 mL) and basified with 40% lye solution (pH˜9). The layers were separated and the aqueous layer was extracted with dichloromethane (2×200 mL) and the combined organic phase was washed with water (150 mL), brine solution (150 mL) and dried over sodium sulphate. The organic phase was concentrated on rotavacuum to afford the title compound (21.2 grams).

reactant | 3-[4-(1-t-Butyloxycarbonyl piperidin-4-yloxy)phenyl]-1-(morpholin-4-yl)prop-2-ene-1-one | 0.071 moles, 29.8 grams | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C=CC(=O)N1CCOCC1 | C23H32N2O5
reactant | trifluoroacetic acid | 0.726 moles, 55.6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 500 mL | O | H2O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 3-[4-(Piperidin-4-yloxy)phenyl]-1-(morpholin-4-yl)prop-2-ene-1-one | 21.2 grams, Yield: 90% | N1CCC(CC1)OC1=CC=C(C=C1)C=CC(=O)N1CCOCC1 | C18H24N2O3
